US05374640
1a) 4-Hydroximino-3-(pyrid-3-yl)isoxazol-5-one
A suspension of 57 g of 3-(pyrid-3-yl)isoxazol-5-one in 50 ml of water and 350 ml of glacial acetic acid is treated dropwise at 15° C. with a solution of 27 g of sodium nitrite in 60 ml of water. After 4 hours, the precipitate is filtered off with suction, washed with water and dried.

reactant | 3-(pyrid-3-yl)isoxazol-5-one | 57 g | N1=CC(=CC=C1)C=1NOC(C1)=O | C8H6N2O2
reactant | sodium nitrite | 27 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | 4-Hydroximino-3-(pyrid-3-yl)isoxazol-5-one | N(O)=C1C(=NOC1=O)C=1C=NC=CC1 | C8H5N3O3
